US04462923
A mixture of 4.8 g of 2-pentyl-1,3-benzodioxan-6-carboxaldehyde, 100 ml of dioxan, 5 g of finely powdered potassium carbonate and 11.5 g of ethyltriphenylphosphonium bromide is heated to boiling under reflux for 24 hours. The inorganic salts are filtered off and back-washed with dioxan and the filtrate is evaporated. The residue is stirred up with hexane. Insoluble triphenylphosphine oxide is filtered off and the filtrate is evaporated. The residue is distilled at 210° C./11 mmHg in a bulb-tube. The turbid distillate is re-distilled at 130° C./0.1 mmHg in a bulb-tube. 2.5 g of crude, oily 2-pentyl-6-propenyl-1,3-benzodioxan are obtained.

reactant | 2-pentyl-1,3-benzodioxan-6-carboxaldehyde | 4.8 g | C(CCCC)C1OCC2=C(O1)C=CC(=C2)C=O | C14H18O3
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | dioxan | 100 ml | O1CCOCC1 | C4H8O2
catalyst | ethyltriphenylphosphonium bromide | 11.5 g | [Br-].C(C)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
product | 2-pentyl-6-propenyl-1,3-benzodioxan | C(CCCC)C1OCC2=C(O1)C=CC(=C2)C=CC | C16H22O2
